US07399774B2
6-(2-Hydroxymethyl-indan-5-yloxy)nicotinamide
Combine in a round bottom flask equipped with a stir, Dean Stark Trap filled with toluene, and reflux condenser 2-Hydroxymethyl-indan-5-ol (630.2 mg, 3.84 mmol), K2CO3 (690.0 mg, 5.0 mmol), 6-Chloronicotinamide (600.0 mg, 3.84 mmol) and a solution of DMA:Toluene (15:5 mL). After the reaction refluxes under nitrogen atmosphere for 5 hours, concentrate under reduced pressure and then add ethyl acetate. Wash the organic layer several times with water, then brine, and dry over Na2SO4. After concentrating the reaction mixture under reduced pressure, flash chromatograph using 20% THF, 7% 1N NH3-MeOH, 73% DCM eluent to afforded 481.1 mg, 1.69 mmol (44% yield) of the title compound: 1H NMR (500 MHz, CDCl3); 1.8-2.2 (4H, m), 2.6-2.8 (3H, m), 3.6-3.8 (2H, br d), 3.9-4.0 (1H, m), 6.1-6.6 (2H, br d), 6.8-7.0 (3H, m), 7.2-7.3 (1H, m), 8.1-8.2 (1H, m), 8.6 (1H, s); MS m/z 285 (M+1).

reactant | 2-Hydroxymethyl-indan-5-ol | 3.84 mmol, 630.2 mg | OCC1CC2=CC=C(C=C2C1)O | C10H12O2
reactant | K2CO3 | 5.0 mmol, 690.0 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 6-Chloronicotinamide | 3.84 mmol, 600.0 mg | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
solvent | Toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | DMA | CC(=O)N(C)C | C4H9NO
product | 6-(2-Hydroxymethyl-indan-5-yloxy)nicotinamide | 1.69 mmol, 481.1 mg, 44% yield | OCC1CC2=CC=C(C=C2C1)OC1=NC=C(C(=O)N)C=C1 | C16H16N2O3
